US06762320B2
N-[4-(3-Fluoro-benzyloxy)-phenyl]-2-methyl-malonamide
The title compound is prepared in analogy to example 3 from N-[4-(3-fluoro-benzyloxy)-phenyl]-2-methyl-malonamic acid methyl ester and ammonium hydroxide. Colorless solid. Mp=206° C.

reactant | N-[4-(3-fluoro-benzyloxy)-phenyl]-2-methyl-malonamic acid methyl ester | COC(C(C(=O)NC1=CC=C(C=C1)OCC1=CC(=CC=C1)F)C)=O | C18H18FNO4
reactant | ammonium hydroxide | [OH-].[NH4+]
product | N-[4-(3-Fluoro-benzyloxy)-phenyl]-2-methyl-malonamide | FC=1C=C(COC2=CC=C(C=C2)NC(C(C(=O)N)C)=O)C=CC1 | C17H17FN2O3
